US09376454B2
Step 2. Synthesis of (R)-3-(2-(2-aminoethyl)isoindoline-5-carboxamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from tert-butyl 3-((2R)-2-(2-(2-(tert-butoxycarbonylamino)ethyl)isoindoline-5-carboxamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate and BCl3 following the procedure described in Step 2 of Example 3. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 396 (MH)+.

reactant | tert-butyl 3-((2R)-2-(2-(2-(tert-butoxycarbonylamino)ethyl)isoindoline-5-carboxamido)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)ethyl)-2-methoxybenzoate | C(C)(C)(C)OC(=O)NCCN1CC2=CC=C(C=C2C1)C(=O)N[C@@H](CC=1C(=C(C(=O)OC(C)(C)C)C=CC1)OC)B1OC2(C3C(C(CC2O1)C3)(C)C)C | C40H56BN3O8
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-3-(2-(2-aminoethyl)isoindoline-5-carboxamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | NCCN1CC2=CC=C(C=C2C1)C(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C20H22BN3O5
